US05446040
Example P-11: 4.0 g of 2-propionylquinoline-oxime and 2 g of 5 % Pd/C catalyst in 40 ml of glacial acetic acid are placed in a hydrogenation apparatus. The batch is hydrogenated for 5 hours at 20°-25° C. under normal pressure. Filtration is then carried out, the glacial acetic acid is removed under a water-jet vacuum and the residue is purified by means of flash chromatography on silica gel (eluant: ethanol/ether 1:1 ) to yield 3.6 g of 2-(1-aminopropyl)quinoline in the form of a red oil (1H-NMR).

reactant | 2-propionylquinoline-oxime | 4.0 g | C(CC)(C1=NC2=CC=CC=C2C=C1)=NO | C12H12N2O
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-(1-aminopropyl)quinoline | 3.6 g | NC(CC)C1=NC2=CC=CC=C2C=C1 | C12H14N2
